US08754226B2
(S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1-(1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one (173 mg, 0.299 mmol), 2-chloropyrimidine (41.1 mg, 0.359 mmol) and 2M Na2CO3 (748 μL, 1.50 mmol) were dissolved in dioxane (3 mL) and purged with nitrogen. Pd(PPh3)4 (34.6 mg, 0.0299 mmol) was added and the reaction was heated to 80° C. for 3 hours. The reaction was cooled to ambient temperature, partitioned between water and CH2Cl2, extracted twice, dried over Na2SO4, filtered and concentrated. The residue was purified over silica gel (eluting with 90 to 100% EtOAc in hexanes) to afford (S)-1-(1-(2,5′-bipyrimidin-2′-yl)piperidin-4-yl)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)pyrrolidin-2-one (76 mg, 0.143 mmol, 47.9% yield) as a white solid. Mass spectrum (apci) m/z=531.2 (M+H).

reactant | (S)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)-1-(1-(5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidin-2-yl)piperidin-4-yl)pyrrolidin-2-one | 0.299 mmol, 173 mg | FC1=C(O[C@@H]2C(N(CC2)C2CCN(CC2)C2=NC=C(C=N2)B2OC(C(O2)(C)C)(C)C)=O)C=C(C(=C1)S(=O)(=O)C)F | C26H33BF2N4O6S
reactant | 2-chloropyrimidine | 0.359 mmol, 41.1 mg | ClC1=NC=CC=N1 | C4H3ClN2
reactant | Na2CO3 | 1.50 mmol, 2M, 748 μL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
catalyst | Pd(PPh3)4 | 0.0299 mmol, 34.6 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-1-(1-(2,5′-bipyrimidin-2′-yl)piperidin-4-yl)-3-(2,5-difluoro-4-(methylsulfonyl)phenoxy)pyrrolidin-2-one | 0.143 mmol, 76 mg, 47.9% yield | N1=C(N=CC=C1)C=1C=NC(=NC1)N1CCC(CC1)N1C([C@H](CC1)OC1=C(C=C(C(=C1)F)S(=O)(=O)C)F)=O | C24H24F2N6O4S
